US08076491B2
1H-pyrazole (10 g, 147 mmol) was added in small portions to concentrated H2SO4 (100 mL), cooled to 0° C. via an ice/water bath, maintaining the internal reaction temperature below 40° C. Concentrated HNO3 (10 mL) was carefully added, dropwise, to the reaction mixture maintaining the internal reaction temperature below 55° C. The reaction was then heated to 55° C. and stirred for 5 hours. The mixture was cooled to 0° C. and carefully made basic (pH˜8) with aqueous NaOH solution (110 g NaOH in 150 mL H2O) until a white precipitate formed, carefully ensuring the internal temperature of the solution remain below 40° C. The white solid was collected by filtration and washed with ethyl acetate/hexanes (1/3) then dried en vacuo to afford 4-nitro-1H-pyrazole (7 g, 42%, isolated yield). 13C NMR (DMSO-d6, 137.0, 126.4. To 4-nitro-1H-pyrazole (9 g, 80 mmol) in DMF (100 mL) 100 MHz) δ was added cesium carbonate (26 g, 80 mmol) followed by the addition of 4-(chloromethyl)-3,5-dimethylisoxazole (12.3 g, 85 mmol). The reaction mixture was stirred in DMF (100 mL) at 80° C. for 30 minutes, then cooled, diluted with H2O (150 mL) and extracted with ethyl acetate (3×, 75 mL). The combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was taken up in ethyl acetate (200 mL) and washed with H2O (2×, 100 mL). The organic layer was dried over sodium sulfate, filtered and concentrated. The solid product was triturated with ethyl acetate/hexanes(1/9) and collected by filtration. The product was dried under high vacuum to afford 3,5-dimethyl-4-((4-nitro-1H-pyrazol-1-yl)methyl)isoxazole (12 g, 67%) as a light yellow solid. 1H NMR (CDCl3, 400 MHz): δ 2.23 (s, 3H), 2.46 (s, 3H), 5.08 (s, 2H), 8.02 (s, 1H), 8.08 (s, 1H).

reactant | 4-nitro-1H-pyrazole | 80 mmol, 9 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | cesium carbonate | 80 mmol, 26 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(chloromethyl)-3,5-dimethylisoxazole | 85 mmol, 12.3 g | ClCC=1C(=NOC1C)C | C6H8ClNO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | H2O | 150 mL | O | H2O
product | 3,5-dimethyl-4-((4-nitro-1H-pyrazol-1-yl)methyl)isoxazole | 12 g, 67% | CC1=NOC(=C1CN1N=CC(=C1)[N+](=O)[O-])C | C9H10N4O3
